US07538112B2
Step 8: 10-(Benzyloxy)-2-(4-fluorobenzyl)-4,8-dimethyl-7,8-dihydropyrazino-[1′,2′:1,5]pyrrolo-[2,3-d]pyridazine-1,9(2H,6H)-dione
A mixture of ethyl 6-acetyl-8-(benzyloxy)-2-methyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate (65 mg, 0.18 mmol) and 4-fluorobenzyl hydrazine (0.12 g, 0.88 mmol), and acetic acid (3 drops) in toluene (40 mL) was heated in a sealed tube at 120° C. overnight. The reaction mixture was concentrated under vacuum, and the residue was subjected to column chromatography on silica gel eluted with 1-5% methanol in ethyl acetate gradient to provide titled product.

reactant | ethyl 6-acetyl-8-(benzyloxy)-2-methyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate | 0.18 mmol, 65 mg | C(C)(=O)C1=C(C(=C2N1CCN(C2=O)C)OCC2=CC=CC=C2)C(=O)OCC | C20H22N2O5
reactant | 4-fluorobenzyl hydrazine | 0.88 mmol, 0.12 g | FC1=CC=C(CNN)C=C1 | C7H9FN2
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 10-(Benzyloxy)-2-(4-fluorobenzyl)-4,8-dimethyl-7,8-dihydropyrazino-[1′,2′:1,5]pyrrolo-[2,3-d]pyridazine-1,9(2H,6H)-dione | C(C1=CC=CC=C1)OC1=C2N(C=3C(=NN(C(C31)=O)CC3=CC=C(C=C3)F)C)CCN(C2=O)C | C25H23FN4O3
